US06172256B2
Preparation of 6-chloro-8-iodocoumarin
A mixture of 3-iodo-5-chlorosalicylaldehyde (100 g, 0.354 mole), acetic anhydride (300 mL) and triethylamine (54 mL) was heated at reflux for 18 hours. Upon cooling, the desired coumarin precipitated as a dark brown crystalline material. This was filtered, washed with hexane/ethyl acetate (4:1, 200 mL), and was air dried. Yield: 60 g (55%).

reactant | 3-iodo-5-chlorosalicylaldehyde | 0.354 mole, 100 g | IC1=C(C(C=O)=CC(=C1)Cl)O | C7H4ClIO2
reactant | acetic anhydride | 300 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | triethylamine | 54 mL | C(C)N(CC)CC | C6H15N
product | 6-chloro-8-iodocoumarin | ClC=1C=C2C=CC(OC2=C(C1)I)=O | C9H4ClIO2
